US07601716B2
4-[1-(2,6-Dichlorobenzyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-N-(2-pyrrolidin-1-yl-ethyl)benzamide
4-[1-(2,6-Dichlorobenzyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]benzoic acid (40 mg) was coupled to 2-pyrrolidin-1-yl-ethylamine as in General Procedure 8 to give the title compound as an off-white solid (26% yield). M.p.>200° C., LCMS: m/z=524.11 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.82 (4H, m), 2.60 (4H, m), 2.74 (2H, m), 3.59 (2H, m), 4.26 (2H, s), 4.85 (1H, bs), 5.56 (2H, s), 7.16 (1H, m), 7.32 (2H, d, J=8.1 Hz), 7.39 (2H, d, J=8.3 Hz), 7.82 (2H, d, J=8.3 Hz), 7.96 (1H, d, J=1.8 Hz).

reactant | 4-[1-(2,6-Dichlorobenzyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]benzoic acid | 40 mg | ClC1=C(CN2C3=C(NCC2=O)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C(=CC=C1)Cl | C21H15Cl2N3O3
reactant | 2-pyrrolidin-1-yl-ethylamine | N1(CCCC1)CCN | C6H14N2
product | 4-[1-(2,6-Dichlorobenzyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-N-(2-pyrrolidin-1-yl-ethyl)benzamide | 26% yield | ClC1=C(CN2C3=C(NCC2=O)N=CC(=C3)C3=CC=C(C(=O)NCCN2CCCC2)C=C3)C(=CC=C1)Cl | C27H27Cl2N5O2
